US05616579
Ethyl 4-Hydroxy-3-isoxazolecarboxylate
144 g of urea were added to 1 liter of a dimethylformamide solution containing 72 g of ethyl 4-bromo-2-hydroxyimino-3-oxobutyrate. The reaction solution was heated for 15 minutes at 100° C. and then cooled, after which water was added to the reaction solution, and the mixture was extracted with ethyl acetate. The extract was washed with dilute aqueous hydrochloric acid and with a saturated aqueous solution of sodium chloride, in that order, after which it was dried over anhydrous sodium sulfate. The solvent was then removed by distillation under reduced pressure, and a 1:1 by volume mixture of ethyl acetate and hexane was added to the residue, to remove insoluble materials. The solution thus obtained was purified by silica gel chromatography, eluted with a 1:4 by volume mixture of ethyl acetate and hexane, to give 19 g of the title compound, melting at 59°-60° C. (after recrystallization from a mixture of ethyl acetate and hexane).

reactant | urea | 144 g | NC(=O)N | CH4N2O
reactant | dimethylformamide | 1 liter | CN(C=O)C | C3H7NO
reactant | ethyl 4-bromo-2-hydroxyimino-3-oxobutyrate | 72 g | BrCC(C(C(=O)OCC)=NO)=O | C6H8BrNO4
solvent | water | O | H2O
product | Ethyl 4-Hydroxy-3-isoxazolecarboxylate | 19 g | OC=1C(=NOC1)C(=O)OCC | C6H7NO4
